Telescopic op-amp in subthreshold

.lib ".\tsmc018.lib"

**Circuit**

Vdd 5 0 {vdd}

*---Telescopic op-amp---

M1 2a 1a 1 0 CMOSN W={w1} L={l}
M2 2b 1b 1 0 CMOSN W={w1} L={l}
M3 3a 2 2a 0 CMOSN W={w2} L={l}
M4 3b 2 2b 0 CMOSN W={w2} L={l}
M5 3a 3 4a 5 CMOSP W={w3} L={l}
M6 3b 3 4b 5 CMOSP W={w3} L={l}
M7 4a 4 5 5 CMOSP W={w4} L={l}
M8 4b 4 5 5 CMOSP W={w4} L={l}
M9 1 1g 0 0 CMOSN W={w0} L={l}

*---Gain boost stage---

M10 6a 3a 5 5 CMOSP W={w5} L={l}
M11 6b 3b 5 5 CMOSP W={w5} L={l}
M12 6a 1g 0 0 CMOSN W={w6} L={l}
M13 6b 1g 0 0 CMOSN W={w6} L={l}

*---Biasing circuit---

M14 1g 1g 0 0 CMOSN W={w7} L={l}
M15 2 2 1g 0 CMOSN W={w8} L={l}
M16 3 3 4 5 CMOSP W={w9} L={l}
M17 4 4 5 5 CMOSP W={w10} L={l}

Iref 3 2 58.1671n

*---External capacitors---

CE1 3a 0 1f
CE2 3b 0 1f
CL1 6a 0 0.1f
CL2 6b 0 0.1f
Cc1 2a 6a 25f
Cc2 2b 6b 25f

*---Source voltages for different analysis types---

Vin1 1a 0 ac sin(0.56 2m 10k)
Vin2 0 1b ac sin(-0.56 2m 10k)
*Vin1 1a 0 pulse(0 1 0.1m 1n 1n 5 5)
*Vin2 1a 1b 0
*Vin1 1a 0 0.56


**Circuit**

Vddx 5x 0 {vdd}

*---Telescopic op-amp---

M1x 2ax 1ax 1x 0 CMOSN W={w1} L={l}
M2x 2bx 1bx 1x 0 CMOSN W={w1} L={l}
M3x 3ax 2x 2ax 0 CMOSN W={w2} L={l}
M4x 3bx 2x 2bx 0 CMOSN W={w2} L={l}
M5x 3ax 3x 4ax 5x CMOSP W={w3} L={l}
M6x 3bx 3x 4bx 5x CMOSP W={w3} L={l}
M7x 4ax 4x 5x 5x CMOSP W={w4} L={l}
M8x 4bx 4x 5x 5x CMOSP W={w4} L={l}
M9x 1x 1gx 0 0 CMOSN W={w0} L={l}

*---Gain boost stage---

M10x 6ax 3ax 5x 5x CMOSP W={w5} L={l}
M11x 6bx 3bx 5x 5x CMOSP W={w5} L={l}
M12x 6ax 1gx 0 0 CMOSN W={w6} L={l}
M13x 6bx 1gx 0 0 CMOSN W={w6} L={l}

*---Biasing circuit---

M14x 1gx 1gx 0 0 CMOSN W={w7} L={l}
M15x 2x 2x 1gx 0 CMOSN W={w8} L={l}
M16x 3x 3x 4x 5 CMOSP W={w9} L={l}
M17x 4x 4x 5x 5 CMOSP W={w10} L={l}

Irefx 3x 2x 58.1671n

*---External capacitors---

CE1x 3ax 0 1f
CE2x 3bx 0 1f
CL1x 6ax 0 0.1f
CL2x 6bx 0 0.1f
Cc1x 2ax 6a 25f
Cc2x 2bx 6b 25f

*---Source voltages for different analysis types---

Vin1x 1ax 0 ac sin(0.56 2m 10k)
Vin2x 0 1bx ac sin(0.56 2m 10k)
*Vin1 1a 0 pulse(0 1 0.1m 1n 1n 5 5)
*Vin2 1a 1b 0
*Vin1 1a 0 0.56



.param vdd=2.5
.param l=0.35u
.param w0=5.5u
.param w1=10.33u
.param w2=5.8u
.param w3=1.0u
.param w4=0.3u
.param w5=0.7u
.param w6=15.4u
.param w7=5.5u
.param w8=3u
.param w9=17.988u
.param w10=0.8616u

*.op
.ac dec 100 1 100g
*(V(6a)-V(6b))/(V(1a)-V(1b))/((V(6ax)-V(6bx))/(V(1ax)))
*.tf V(6a) Vin1
*.tran 4ms 6ms 0.1ms
*.dc Vin1 0 2.5 0.1
*.temp 0 27 100

